US06774164B2
A VF2/PMVE/TFE/2-HPFP fluoroelastomer was prepared by a continuous emulsion polymerization process of the invention in a well-stirred 4.0-liter stainless steel liquid full reaction vessel at 110° C. An aqueous solution, consisting of 3.5 g/hour (g/h) ammonium persulfate, 2.0 g/h sodium hydroxide, 8.4 g/h Zonyl® FS-62 fluorosurfactant (25 wt. % A.I.) solution, and 2.4 g/h isopropanol in deionized water, was fed to the reactor at a rate of 8 L/hour. The reactor was maintained at a liquid-full level at a pressure of 6.2 MPa by means of a back-pressure control valve in the effluent line. After 30 minutes, polymerization was initiated by introduction of a gaseous monomer mixture consisting of 185 g/h tetrafluoroethylene (TFE), 1237 g/h vinylidene fluoride (VF2), and 835 g/h perfluoro(methyl vinyl) ether (PMVE) fed through a diaphragm compressor. After 15 minutes more, 2-hydropentafluoropropylene (2-HPFP) was introduced into the remainder of the gaseous mixture and added at a rate of 68.5 g/h. After 2.0 hours, collection of the resulting fluoroelastomer latex was begun and continued for 6 hours. The latex, which had a pH of 5.23 and contained 22.6 wt. % solids, was separated from residual monomers in a degassing vessel at atmospheric pressure. Fluoroelastomer crumb product was isolated from the latex by reducing the pH to about 3 with dilute sulfuric and coagulating with aluminum sulfate solution. The coagulated fluoroelastomer polymer was allowed to settle, supernatant serum was removed, and the polymer was washed by reslurrying in water twice before filtering. The wet crumb was dried in an air oven at approximately 50°-65° C. to a moisture content of less than 1 wt. %. About 14 kg of fluoroelastomer was recovered at an overall conversion of 97.1%. The product, containing 8.2 wt. % TFE units, 54.1 wt. % VF2 units, 35.9 wt. % PMVE units and 1.84 wt. % 2-HPFP units, was an amorphous elastomer having a glass transition temperature of −30° C., as determined by DSC (heating mode, 10° C./minute, inflection point of transition). Inherent viscosity of the elastomer was 0.89 dL/g, measured at 30° C. in methyl ethyl ketone, and Mooney viscosity, ML (1+10), was 53.

reactant | ammonium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | tetrafluoroethylene | FC(=C(F)F)F | C2F4
reactant | vinylidene fluoride | C(=C)(F)F | C2H2F2
reactant | perfluoro(methyl vinyl) ether | FC(=C(C(F)(F)F)F)OC(=C(F)C(F)(F)F)F | C6F10O
reactant | 2-hydropentafluoropropylene | C(=C(F)F)C(F)(F)F | C3HF5
solvent | water | O | H2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | PMVE TFE 2-HPFP | FC(=C(C(F)(F)F)F)OC(=C(F)C(F)(F)F)F.FC(=C(F)F)F.C(=C(F)F)C(F)(F)F | InChI=1S/C6F10O.C3HF5.C2F4/c7-1(5(11,12)13)3(9)17-4(10)2(8)6(14,15)16;4-2(5)1-3(6,7)8;3-1(4)2(5)6/h;1H;
